US07977331B1
To a solution of ethyl 12-cyclohexyl-6,7-dihydro-5H-5,7a,8-triazadibenzo[a,e]azulene-9-carboxylate (74 mg, 0.19 mmol) in N,N-dimethylformamide (2 ml) and acetonitrile (2 ml) were added 4-(2-chloroacetyl)morpholine (94 mg, 0.57 mmol), potassium iodide (64 mg, 0.38 mmol) and potassium carbonate (66 mg, 0.48 mmol), and the mixture was stirred with heating at 90° C. for 12 hr. The reaction mixture was allowed to cool to room temperature, and water was added to the reaction mixture. The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel chromatography (ethyl acetate) to give ethyl 12-cyclohexyl-5-[2-oxo-2-(morpholin-4-yl)ethyl]-6,7-dihydro-5H-5,7a,8-triazadibenzo[a,e]azulene-9-carboxylate (62 mg, yield 63%).

reactant | ethyl 12-cyclohexyl-6,7-dihydro-5H-5,7a,8-triazadibenzo[a,e]azulene-9-carboxylate | 0.19 mmol, 74 mg | C1(CCCCC1)C=1C2=C(N3CCNC4=C(C13)C=CC=C4)N=C(C=C2)C(=O)OCC | C24H27N3O2
reactant | 4-(2-chloroacetyl)morpholine | 0.57 mmol, 94 mg | ClCC(=O)N1CCOCC1 | C6H10ClNO2
reactant | potassium iodide | 0.38 mmol, 64 mg | [I-].[K+]
reactant | potassium carbonate | 0.48 mmol, 66 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | ethyl 12-cyclohexyl-5-[2-oxo-2-(morpholin-4-yl)ethyl]-6,7-dihydro-5H-5,7a,8-triazadibenzo[a,e]azulene-9-carboxylate | 62 mg, yield 63% | C1(CCCCC1)C=1C2=C(N3CCN(C4=C(C13)C=CC=C4)CC(N4CCOCC4)=O)N=C(C=C2)C(=O)OCC | C30H36N4O4
